US07589090B2
N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide (1.13 g, 2.37 mmol), cyclopropylamine (0.807 g, 9.48 mmol), and potassium iodide (25 mg) were added to 25 mL acetone. The reaction mixture was stirred under nitrogen at room temperature for 20 hours, then diluted with EtOac. The mixture was washed with water and brine, and the organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (8% MeOH/methylene chloride-0.1% NH4OH) to give 15 mg of N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-cyclopentylamino-acetamide, m.p.=176.5-178.0° C., MS (M+H)=526.

reactant | N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide | 2.37 mmol, 1.13 g | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CCl)=O | C16H18ClIN4O3
reactant | cyclopropylamine | 9.48 mmol, 0.807 g | C1(CC1)N | C3H7N
reactant | potassium iodide | 25 mg | [I-].[K+]
reactant | acetone | 25 mL | CC(=O)C | C3H6O
product | N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-cyclopentylamino-acetamide | 15 mg | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CNC1CCCC1)=O | C21H28IN5O3
